* File     : SMAJ.LIB
* Revision : 1.0
* Date     : June 2011
*
***************************************************************************************
* Information included is believed to be accurate and reliable. However, *
* ST Microelectronics assumes no responsibility for the consequences of  *
* use of such information nor for any infringement of patents or other   *
* rights of third parties which may result from its use. No license is   *
* granted by implication or otherwise under any patent patent rights of  *
* ST Microelectronics. Specification mentionned in this publication are  *
* subject to change without notice. This publication superseedes and 	 *
* replaces all information previously supplied. ST Microelectronics      *
* products are not authorized for use as critical components in life     *
* support or systems without express written approval of ST              *
* Microelectronics.                          	                         *
*                                                                    	 *			*
*    (c) 1997 ST Microelectronics. All rights reserved.     	         *
*                                                                    	 *			*
*           ST Microelectronics GROUP OF COMPANIES                       *
* Australia - Brazil - France - Germany - Hong Kong - Italy - Japan  	 *
* Korea - Malaysia - Malta - Morocco - The Netherlands - Singapore   	 *
* Spain - Sweden - Switzerland - Taiwan - United Kingdom - U.S.A.    	 *
*									 *
***************************************************************************************
*
* UNIDIRECTIONAL TRANSIL
*$
.SUBCKT TRANSIL  Anode  Cathode  PARAMS:
+ IRM=1u VBRnom=12  VBRmax=13  IR=1m 
+ VCLmax=20  Ipp=100  Cjof=1n
+ ISF=1f  NF=1  RSF=1m  IKFF=1000
* IRM		Stand-off current at VRM
* VBR		Breakdown voltage
* IR		Reverse current at VBR
* VCL		Clamping voltage
* Ipp		Surge current
* Cjo		junction capacitance at 0V
* IS		Saturation current
* N		Emission coefficient
* RS		Serie résistance
* IKF		High injection knee current
Drev    A_int    Cathode    TRANSR
Dfwd   Anode   Cathode    TRANSF
Dr       A_int    Anode       DTRANS
***** REVERSE BEHAVIOUR *****
.MODEL  TRANSR  D(
+ IS={IRM/2}   RS={(VCLmax-VBRmax)/Ipp}
+ BV={VBRnom}  IBV={IR}
+ IKF=1000  Cjo=1p  M=.3333  VJ=.6
+ ISR=1n  TT=1u )
****************** FORWARD BEHAVIOUR ******************
***** JUNCTION CAPACITANCE BEHAVIOUR Cj(VR) *****
.MODEL   TRANSF  D(
+ IS={ISF}  N={NF}  RS={RSF}  IKF={IKFF}
+ Cjo={Cjof}  M=.3333  VJ=0.6  ISR=1.000E-21
+ BV=1000  IBV=1n  TT=1u )
.MODEL   DTRANS  D(
+ IS=1n  N=.01  RS=1u  IKF=1000  Cjo=1p
+ M=.3333  VJ=.6  ISR=1n  BV=1000  IBV=1u
+ TT=1u )
.ENDS
*********** BIDIRECTIONAL TRANSIL **********
******** PARAMETERS DESCRIPTION ********
*********** LOW VOLTAGE ************
*$
.SUBCKT   TRANSILB   Anode1  Anode2   PARAMS:
+ IRM=1u VBRnom=12  VBRmax=13  IR=1m 
+ VCLmax=20  Ipp=100  Cjof=1n
+ ISBF=1f  NBF=1
***** SCHEMATICS DESCRIPTION *****
Drev1    A_int1     Cathode   TRANSR
Dfwd1   Anode1    Cathode  TRANSBF
Dr1       A_int1     Anode1    DTRANS
Drev2    A_int2     Cathode   TRANSR
Dfwd2   Anode2    Cathode   TRANSBF
Dr2       A_int2     Anode2     DTRANS
***** REVERSE BEHAVIOUR *****
.MODEL  TRANSR  D(
+ IS={IRM/2}   RS={(VCLmax-VBRmax)/Ipp}
+ BV={VBRnom}  IBV={IR}
+ IKF=1000  Cjo=1p  M=.3333  VJ=.6
+ ISR=1p  TT=1u )
***** JUNCTION CAPACITANCE BEHAVIOUR *****
.MODEL   TRANSBF   D(
+ IS={ISBF}  N={NBF}  RS=1u  IKF=1000
+ Cjo={Cjof}  M=.3333  VJ=.6  ISR=1p
+ BV=1000  IBV=100u  TT=1u )
.MODEL   DTRANS  D(
+ IS=1n  N=.01  RS=1u  IKF=1000  Cjo=1p
+ M=.3333  VJ=.6  ISR=1p  BV=1000  IBV=100u
+ TT=1u )
.ENDS
*********** HIGH VOLTAGE ************
*$
.SUBCKT   TRANSILBHT   Anode1  Anode2   PARAMS:
+ IRM=1u VBRnom=12  VBRmax=13  IR=1m 
+ VCLmax=20  Ipp=100  Cjof=1n
******* SCHEMATICS DESCRIPTION *******
Drev1    A_int1     Cathode   TRANSR
Dfwd1   Anode1    Cathode  TRANSBF
Dr1       A_int1     Anode1    DTRANS
Drev2    A_int2     Cathode   TRANSR
Dfwd2   Anode2    Cathode   TRANSBF
Dr2       A_int2     Anode2     DTRANS
********** REVERSE BEHAVIOUR **********
.MODEL  TRANSR  D(
+ IS={IRM/2}   RS={(VCLmax-VBRmax)/Ipp}
+ BV={VBRnom}  IBV={IR}
+ IKF=1000  Cjo=1p  M=.3333  VJ=.6
+ ISR=1p  TT=1u )
***** JUNCTION CAPACITANCE BEHAVIOUR *****
.MODEL   TRANSBF   D(
+ IS=1p  N=1  RS=1m  IKF=1000
+ Cjo={Cjof}  M=.3333  VJ=.6  ISR=1p
+ BV=1000  IBV=100u  TT=1u )
.MODEL   DTRANS  D(
+ IS=1p  N=1  RS=1m  IKF=1000  Cjo=1p
+ M=.3333  VJ=.6  ISR=1p  BV=1000  IBV=100u
+ TT=1u )
.ENDS
*************************************************************************************************
*				SMAJ FAMILY					*
*************************************************************************************************
*$ 
.SUBCKT  SMAJ5_0A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=20u   VBRnom=6.74   VBRmax=7.2 
+ IR=10m  VCLmax=13.4  Ipp=174  Cjof=3500p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ5_0CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=20u   VBRnom=6.74   VBRmax=7.2 
+ IR=10m  VCLmax=13.4  Ipp=174  Cjof=3500p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  SMAJ6_0A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=20u  VBRnom=7.05  VBRmax=7.54
+ IR=10m  VCLmax=13.7  Ipp=170  Cjof=3300p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ6_0CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=20u  VBRnom=7.05  VBRmax=7.54
+ IR=10m  VCLmax=13.7  Ipp=170  Cjof=3300p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  SMAJ6_5A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=20u  VBRnom=7.58  VBRmax=8.11
+ IR=10m  VCLmax=14.5  Ipp=160  Cjof=3100p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ6_5CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=20u  VBRnom=7.58  VBRmax=8.11
+ IR=10m  VCLmax=14.5  Ipp=160  Cjof=3100p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  SMAJ8_5A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=20u  VBRnom=9.9  VBRmax=10.6
+ IR=1m  VCLmax=18.6  Ipp=124  Cjof=2000p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ8_5CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=20u  VBRnom=9.9  VBRmax=10.6
+ IR=1m  VCLmax=18.6  Ipp=124  Cjof=2000p
+ ISBF=1n  NBF=.01
.ENDS
*$
.SUBCKT  SMAJ10A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=11.7  VBRmax=12.51
+ IR=1m  VCLmax=21.7  Ipp=106  Cjof=1550p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ10CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=11.7  VBRmax=12.51
+ IR=1m  VCLmax=21.7  Ipp=106  Cjof=1550p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ12A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=14  VBRmax=14.98
+ IR=1m  VCLmax=25.3  Ipp=91  Cjof=1325p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ12CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=14  VBRmax=14.98
+ IR=1m  VCLmax=25.3  Ipp=91  Cjof=1325p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ13A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=15.2  VBRmax=16.26
+ IR=1m  VCLmax=27.2  Ipp=85  Cjof=1200p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ13CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=15.2  VBRmax=16.26
+ IR=1m  VCLmax=27.2  Ipp=85  Cjof=1200p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ15A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=17.6  VBRmax=18.8
+ IR=1m  VCLmax=32.5  Ipp=71  Cjof=975p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ15CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=17.6  VBRmax=18.8
+ IR=1m  VCLmax=32.5  Ipp=71  Cjof=975p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ18A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=21.1  VBRmax=22.57
+ IR=1m  VCLmax=39.3  Ipp=59  Cjof=800p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ18CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=21.1  VBRmax=22.7
+ IR=1m  VCLmax=39.3  Ipp=59  Cjof=800p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ20A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=23.4  VBRmax=25.03
+ IR=1m  VCLmax=42.8  Ipp=54  Cjof=725p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ20CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=23.4  VBRmax=25.03
+ IR=1m  VCLmax=42.8  Ipp=54  Cjof=725p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ22A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=25.7  VBRmax=27.5
+ IR=1m  VCLmax=48.3  Ipp=48  Cjof=625p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ22CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=25.7  VBRmax=25.7
+ IR=1m  VCLmax=48.3  Ipp=48  Cjof=625p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ24A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=28.1  VBRmax=30.06
+ IR=1m  VCLmax=50  Ipp=46  Cjof=600p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ24CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=28.1  VBRmax=30.06
+ IR=1m  VCLmax=50  Ipp=46  Cjof=600p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ26A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=30.4  VBRmax=32.52
+ IR=1m  VCLmax=53.5  Ipp=43  Cjof=575p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ26CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=30.4  VBRmax=32.52
+ IR=1m  VCLmax=53.5  Ipp=43  Cjof=575p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ28A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=32.7  VBRmax=34.99
+ IR=1m  VCLmax=59  Ipp=39  Cjof=510p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ28CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=32.7  VBRmax=34.99
+ IR=1m  VCLmax=59  Ipp=39  Cjof=510p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ30A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=35.1  VBRmax=37.55
+ IR=1m  VCLmax=64.3  Ipp=36  Cjof=480p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ30CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=35.1  VBRmax=37.55
+ IR=1m  VCLmax=64.3  Ipp=36  Cjof=480p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ33A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=38.6  VBRmax=41.3
+ IR=1m  VCLmax=69.7  Ipp=33  Cjof=450p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ33CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=38.6  VBRmax=41.3
+ IR=1m  VCLmax=69.7  Ipp=33  Cjof=450p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ40A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=46.7  VBRmax=49.97
+ IR=1m  VCLmax=84  Ipp=27  Cjof=370p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ40CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=46.7  VBRmax=49.97
+ IR=1m  VCLmax=84  Ipp=27  Cjof=370p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ43A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=50.3  VBRmax=53.82
+ IR=1m  VCLmax=84  Ipp=27  Cjof=340p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ43CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=50.3  VBRmax=53.82
+ IR=1m  VCLmax=84  Ipp=27  Cjof=340p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ48A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=56.1  VBRmax=60.03
+ IR=1m  VCLmax=100  Ipp=23  Cjof=320p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ48CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=56.1  VBRmax=60.03
+ IR=1m  VCLmax=100  Ipp=23  Cjof=320p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ58A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=67.8  VBRmax=72.54
+ IR=1m  VCLmax=121  Ipp=19  Cjof=270p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ58CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=67.8  VBRmax=72.54
+ IR=1m  VCLmax=121  Ipp=19  Cjof=270p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ70A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=81.9  VBRmax=87.63
+ IR=1m  VCLmax=146  Ipp=16  Cjof=230p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ70CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=81.9  VBRmax=87.63
+ IR=1m  VCLmax=146  Ipp=16  Cjof=230p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ85A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=99  VBRmax=105.93
+ IR=1m  VCLmax=178  Ipp=13  Cjof=200p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ85CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILB  PARAMS:
+ IRM=0.2u  VBRnom=99  VBRmax=105.93
+ IR=1m  VCLmax=178  Ipp=13  Cjof=200p
+ ISBF=1p  NBF=.65
.ENDS
*$
.SUBCKT  SMAJ100A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=117  VBRmax=125.19
+ IR=1m  VCLmax=212  Ipp=11  Cjof=170p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ100CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=0.2u  VBRnom=117  VBRmax=125.19
+ IR=1m  VCLmax=212  Ipp=11  Cjof=170p
.ENDS
*$
.SUBCKT  SMAJ130A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=152  VBRmax=162.64
+ IR=1m  VCLmax=265  Ipp=9  Cjof=145p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ130CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=0.2u  VBRnom=152  VBRmax=162.64
+ IR=1m  VCLmax=265  Ipp=9  Cjof=145p
.ENDS
*$
.SUBCKT  SMAJ154A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=180  VBRmax=192.6
+ IR=1m  VCLmax=317  Ipp=7  Cjof=125p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ154CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=0.2u  VBRnom=180  VBRmax=192.6
+ IR=1m  VCLmax=317  Ipp=7  Cjof=125p
.ENDS
*$
.SUBCKT  SMAJ170A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=199  VBRmax=212.93
+ IR=1m  VCLmax=353  Ipp=6.5  Cjof=120p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ170CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=0.2u  VBRnom=199  VBRmax=212.93
+ IR=1m  VCLmax=353  Ipp=6.5  Cjof=120p
.ENDS
*$
.SUBCKT  SMAJ188A  Anode  Cathode
X1  Anode  Cathode  TRANSIL  PARAMS:
+ IRM=0.2u  VBRnom=220  VBRmax=235.4
+ IR=1m  VCLmax=388  Ipp=6  Cjof=110p
+ ISF=23.63f   NF=1.015   RSF=13.16m   IKFF=49.83
.ENDS
*$
.SUBCKT  SMAJ188CA  Anode1  Anode2
X1  Anode1  Anode2  TRANSILBHT  PARAMS:
+ IRM=0.2u  VBRnom=220  VBRmax=235.4
+ IR=1m  VCLmax=388  Ipp=6  Cjof=110p
.ENDS
*$